Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Dilaudid / Reglan
 
Attending: ___.
 
Chief Complaint:
Elevated BP, headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o G3P1 at 28 weeks 1 days ___ ___ with h/o of CHTN 
with headache today, and blood pressures in the 150s/100s 
measured by the nurse practitioner at her safe house.  Has taken 
all three doses of her labetolol 200mg TID already, no relief 
from the headache with Fioricet.  Also has blurry vision/spots.  
Does endorse epigastric discomfort for the past few days.  
Additionally, has been having abdominal cramping/tightening 
intermittently for the last 2 days.  Has been eating and 
drinking normally.  No VB/LOF. Mild nausea occasionally, no 
vomiting.  Denies fever, chills, dysuria, diarrhea.
 
Past Medical History:
PNC:
1-Dating ___ ___
2-Labs: O pos/Ab neg/RPRNR/RI/HbsAgneg/
3-U/S: FFS nl, placenta posterior, EFW ___ 25%
.
Issues
1-CHTN,dx at age ___, H/O meds d/c at age ___ associated with
headache. ___ -> 24hr urine collection neg protein, currently 
on
Labetalol 200 TID
2-SW, lives in a shelter, FOB not involved
3-h/o pyelonephritis, on Keflex for Prophy but has not be taking 

4-ss trait -: FOB not involved, not tested
5-Abnl pap-rpt pap last neg.  Rpt PP.   
.
OBHx:
___
___ at term, ___, elevated BP 
3-current
.
Gyn hx:LMP ___ abn pap, last repeat normal
.
Medhx:cHTN,ss trait,H/O pyelonephritis
.
SurgHx:denies
 
Social History:
Denies T/D/E, Lives in a shelter FOB not involved.

 
Physical Exam:
Vitals: 98.5   80   18   130s-150s/70s-100s.
NAD
RRR no m/r/g
CTAB no w/r/r
soft, gravid, epigastric and RUQ tenderness > mild diffuse 
tenderness
no edema, nontender, reflexes 2+
.
FHT: Baseline 145. Mod Variability. Positive Accels. No decels
Toco: occasional contractions vs patient moving
SSE: cervix appears closed and long, normal white discharge.
SVE: closed and high
.
Ultrasound: BPP ___ (-2 breathing), Vtx, AFI 17.2
 
Pertinent Results:
___ 07:52PM BLOOD WBC-8.9 RBC-3.49* Hgb-10.0* Hct-28.7* 
MCV-82 MCH-28.8 MCHC-35.0 RDW-13.0 Plt ___
___ 07:52PM BLOOD Creat-0.6
___ 07:52PM BLOOD ALT-10
___ 07:52PM BLOOD UricAcd-3.9
.
___ 09:30AM BLOOD WBC-10.3 RBC-3.41* Hgb-10.2* Hct-27.6* 
MCV-81* MCH-29.9 MCHC-36.8* RDW-13.1 Plt ___
___ 09:30AM BLOOD Creat-0.6
___ 09:30AM BLOOD ALT-9 AST-14
___ 09:30AM BLOOD UricAcd-3.8
.
___ 10:00PM URINE 24Creat-1274 24Prot-147
.
___ 09:45PM OTHER BODY FLUID FetalFN-NEGATIVE
 
Brief Hospital Course:
___ yo G3P1011 at 28w1d with cHTN, admitted to AP service for 
worsening BPs, headache, epigastric discomfort.

She was seen by ___ (Dr. ___ as well as internal medicine 
consult.  Her Labetalol was discontinued and she was started on 
Nifedipine CR 30mg PO BID.  This achieved adequate blood 
pressure control.  She had a normal cardiac echo on ___.  There 
was no evidence of pre-eclampsia.  Her serum labs were normal 
throughout the admission and her 24 hour urine collection 
revealed only 147 mg protein.  

Her symptoms of headache, visual "floaters" and epigastric 
discomfort persisted throught the admission.  The symptoms were 
mild and intermittent.  Her headache was usually relieved with 
Fioricet but would recur.  She had been evaluated by neurology 
and had a normal MRI/MRV during a previous admission.  
 
She has a few preterm contractions but no evidence of labor.  
SVE on admission was closed/high and fFN was negative.

FWB was reassuring throughout the admission.  On ___ EFW was 
966g (45%).  On ___ BPP was ___, AFI 12.9.  She did not receive 
BMZ during this admission.

As far as her social situation, Ms. ___ lives in a domestic 
violence shelter.  She was seen by our SW while she was here.  
She was determined to be safe and was discharged back to the 
shelter when medically stable.

Plan for weekly ATU testing and close f/u with Dr. ___ BP 
monitoring.
 
Medications on Admission:
PNV, labetolol 200mg po tid, Fioricet po prn
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed.
Disp:*50 Capsule(s)* Refills:*0*
2. Nifedipine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO BID (2 times a day).
Disp:*60 Tablet Sustained Release(s)* Refills:*2*
3. Benadryl 25 mg Capsule Sig: One (1) Capsule PO at bedtime: 1 
pill at bedtime if needed for sleep.
Disp:*30 Capsule(s)* Refills:*2*
4. Butalbital-Acetaminophen-Caff 50-325-40 mg Tablet Sig: ___ 
Tablets PO every ___ hours as needed.
Disp:*50 Tablet(s)* Refills:*0*
5. Cephalexin 250 mg Capsule Sig: One (1) Capsule PO Q24H (every 
24 hours).
Disp:*30 Capsule(s)* Refills:*2*
6. Prenatal ___ mg Tablet Sig: One (1) Tablet PO once a day.  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic hypertension
Pregnancy

 
Discharge Condition:
Hypertension controlled on PO medications, reassuring fetal 
testing.

 
Discharge Instructions:
Please call Dr. ___: worsening headache, worsening visual 
changes, severe right upper abdominal pain. Call if vaginal 
bleeding, decreased baby movements or contractions.

Take Nifedipine as directed for blood pressure
Take Cephalexin daily for suppression of bladder infection
Take Fioricet as directed for headache relief. 

Do not take Tylenol and Fioricet within 6 hours of each other.
 
Followup Instructions:
___